US05134238
(S)-N-methyl-1-phenyl-2-(1-piperidinyl)ethanamine (361.1 mg, 1.66 mmol) was dissolved in ether (12 mL) and n-butyllithium (2.5M in hexanes, 0.66 mL, 1.65 mmol) was added to the solution at -65° C. The solution was stirred for 5 min at -65° C., warmed to 0° C. and stirred for 10 min at 0° C. To a second flask was added CuI (263 mg, 1.38 mmol) and 10 mL of diethyl ether. This solution was cooled to -40° C. and treated with n-butyl lithium (0.55 mL, 1.38 mmol). The solution in the first flask was cooled to -35° C. and added via canula to the solution of n-BuCu in the second flask. The resulting solution was stirred for 15 min at -35° C., for 10 min at -30° C., and cooled to -78° C. After 30 min, the ether (1 mL) solution of 4-phenyl-3-buten-2-one (201.5 mg, 1.38 mmol) was added slowly at -78° C. The reaction mixture was stirred for 1 hr at -78° C. and warmed to -20° C. The reaction was quenched by adding 4N NH4Cl (15 mL) at -20° C. and extracted with ether (20 mL). The extract was washed with 1N HCl (15 mL), dried (Na2SO4) and concentrated. The oily residue was purified by column chromatography on silica gel (8:1=hexanes/ethyl acetate) to afford (+)-4-phenyl-2-octanone (95.6 mg, 34% chemical yield, 2% ee, [α]D =0.06 (c=5.00, chloroform)).

reactant | (S)-N-methyl-1-phenyl-2-(1-piperidinyl)ethanamine | 1.66 mmol, 361.1 mg | CN[C@H](CN1CCCCC1)C1=CC=CC=C1 | C14H22N2
reactant | n-butyllithium | 1.65 mmol, 2.5M, 0.66 mL | C(CCC)[Li]
reactant | n-butyl lithium | 1.38 mmol, 0.55 mL | C(CCC)[Li]
reactant | 4-phenyl-3-buten-2-one | 1.38 mmol, 201.5 mg | C1(=CC=CC=C1)C=CC(C)=O | C10H10O
solvent | ether | 12 mL | CCOCC | C4H10O
catalyst | CuI | 1.38 mmol, 263 mg | [Cu]I
solvent | ether | 1 mL | CCOCC | C4H10O
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | (+)-4-phenyl-2-octanone | 95.6 mg, 34% | C1(=CC=CC=C1)C(CC(C)=O)CCCC | C14H20O
